US07576115B2
3) Synthesis of 4-{[2-(1-{4-hydroxy-1-methyl-5-[3-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}benzoic acid
To methyl 4-{[2-(1-{4-hydroxy-1-methyl-5-[3-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}benzoate (0.072 mmol, 33.1 mg), methanol (2 mL) was added, and 1 M aqueous sodium hydroxide (5 eq., 0.360 mL) was added at room temperature. After 30 minutes of stirring at room temperature and 1.5 hours of stirring at 60° C., the reactor was cooled to 0° C., and 1 M hydrochloric acid (5 eq., 0.360 mL) and water were added. The precipitated solid was recovered by filtration, washed with water and dried by means of a vacuum pump to give the desired product as a yellow solid (17.6 mg, yield 55%).

reactant | methyl 4-{[2-(1-{4-hydroxy-1-methyl-5-[3-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}benzoate | 0.072 mmol, 33.1 mg | OC=1C(=NN(C1C1=CC(=CC=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC=C(C(=O)OC)C=C1 | C22H19F3N4O4
reactant | methanol | 2 mL | CO | CH4O
reactant | sodium hydroxide | 1 M, 0.360 mL, 5 eq. | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 0.360 mL, 5 eq. | Cl | ClH
solvent | water | O | H2O
product | 4-{[2-(1-{4-hydroxy-1-methyl-5-[3-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}benzoic acid | 17.6 mg, yield 55% | OC=1C(=NN(C1C1=CC(=CC=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC=C(C(=O)O)C=C1 | C21H17F3N4O4
